US05830919
EXAMPLE 4: N-benzyloxycarbonyl-3-aminobutyric acid (4-chlorophenyl)-1-ethylamide
Z-protected β-aminobutyric acid (0.02 ml), (4-chlorophenyl)-1-ethylamine and 1.1 equivalents of DCC (dicyclohexyl carbonimide) are stirred in ethyl acetate at room temperature for 16 hours. The precipitate is filtered, the filtrate evaporated and chromatographed on silica gel (hexane/ethyl acetate 1:1) to give the title compound as a mixture of diastereomers m.p. 168°-178° C.

reactant | β-aminobutyric acid | 0.02 ml | NC(CC(=O)O)C | C4H9NO2
reactant | (4-chlorophenyl)-1-ethylamine | ClC1=CC=C(C=C1)NCC | C8H10ClN
reactant | DCC | 1.1 equivalents | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-3-aminobutyric acid (4-chlorophenyl)-1-ethylamide | ClC1=CC=C(C=C1)N(C(CC(C)NC(=O)OCC1=CC=CC=C1)=O)CC | C20H23ClN2O3
